US03987053
EXAMPLE 12: 1-Methyl-2-nitro-5-imidazolcarboxaldehyde oxime
To a solution of 0.400 g. of hydroxylamine hydrochloride in 15 ml. of methanol, 0.400 g. of 1-methyl-2-nitro-5-imidazolcarboxaldehyde in 20 ml. of ethanol and 0.810 ml. of triethylamine are added at room temperature. After standing overnight, the solution is concentrated to a small volume and the solid which precipitates is collected on the filter. After crystallization from water, 0.10 g. of the title compound is obtained which melts at 203°-205° C.

reactant | hydroxylamine hydrochloride | Cl.NO
reactant | methanol | CO | CH4O
reactant | 1-methyl-2-nitro-5-imidazolcarboxaldehyde | CN1C(=NC=C1C=O)[N+](=O)[O-] | C5H5N3O3
reactant | ethanol | C(C)O | C2H6O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-Methyl-2-nitro-5-imidazolcarboxaldehyde oxime | CN1C(=NC=C1C=NO)[N+](=O)[O-] | C5H6N4O3
